US05241111
Into a 200 ml four-necked flask equipped with a stirrer, a reflux condenser, a thermometer and a dropping funnel, 97 ml (1 mol) of carbon tetrachloride and 26.7 g (0.2 mol) of aluminum chloride were charged, and 20.0 g (0.1 mol) of 1,2,3-trichloro-4-fluorobenzene was dropwise added under reflux. Thereafter, the mixture was reacted for 30 minutes. The reaction mixture was treated in the same manner as in Example 1 to obtain 19.9 g (yield: 62.8%) of 2,3,4-trichloro-5-fluorobenzotrichloride.

reactant | carbon tetrachloride | 1 mol, 97 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | aluminum chloride | 0.2 mol, 26.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2,3-trichloro-4-fluorobenzene | 0.1 mol, 20.0 g | ClC1=C(C(=C(C=C1)F)Cl)Cl | C6H2Cl3F
product | 2,3,4-trichloro-5-fluorobenzotrichloride | 19.9 g, yield: 62.8% | ClC1=C(C=C(C(=C1Cl)Cl)F)C(Cl)(Cl)Cl | C7HCl6F
